US06784192B2
1-[(5-Fluoro-2-methoxy-3-pyridinyl)methyl]-4-[(E)-2-(2-fluorophenyl)-1-ethenyl]piperidine
117 mg of 5-fluoro-2-methoxy-3-pyridinecarboxaldehyde and 291 mg of 4-[(E)-2-(2-fluorophenyl)-1-ethenyl]piperidine were dissolved in 3 ml of 1,2-dichloroethane, 0.06 ml of acetic acid and 238 mg of sodium triacetoxyborohydride were added thereto, and the mixture was stirred at room temperature overnight. An aqueous saturated sodium carbonate was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the crude product was purified by silica gel column chromatography (n-hexane:ethyl acetate=8:1), to give 221 mg of the title compound as a colorless oil.

reactant | 5-fluoro-2-methoxy-3-pyridinecarboxaldehyde | 117 mg | FC=1C=C(C(=NC1)OC)C=O | C7H6FNO2
reactant | 4-[(E)-2-(2-fluorophenyl)-1-ethenyl]piperidine | 291 mg | FC1=C(C=CC=C1)/C=C/C1CCNCC1 | C13H16FN
reactant | sodium triacetoxyborohydride | 238 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dichloroethane | 3 ml | ClCCCl | C2H4Cl2
solvent | acetic acid | 0.06 ml | C(C)(=O)O | C2H4O2
product | 1-[(5-Fluoro-2-methoxy-3-pyridinyl)methyl]-4-[(E)-2-(2-fluorophenyl)-1-ethenyl]piperidine | 221 mg | FC=1C=C(C(=NC1)OC)CN1CCC(CC1)\C=C\C1=C(C=CC=C1)F | C20H22F2N2O
